US07301032B2
300 mg of 3-methylsulfonyl-5-(2-norbornyl)-1,2,4-thiadiazole and 107 mg of 2-pentyn-1-ol were dissolved in 2.5 g of N,N-dimethylformamide, 60 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 30 minutes under ice-cooling and for 1 hour under room temperature. Then, the reaction mixture was added to saturated brine, and extracted with t-butyl methyl ether. The organic layer was concentrated under reduced pressure, and the residue obtained was subjected to silica gel column chromatography to give 5-(2-norbornyl)-3-(2-butynyloxy)-1,2,4-thiadiazole. 150 mg of the exo-isomer having low polarity (hereinafter referred to as the present invention compound (9-1)) and 50 mg of the endo-isomer having high polarity (hereinafter referred to as the present invention compound (9-2)) were obtained by using hexane-ethyl acetate system as a carrier solvent.

reactant | 3-methylsulfonyl-5-(2-norbornyl)-1,2,4-thiadiazole | 300 mg | CS(=O)(=O)C1=NSC(=N1)C1C2CCC(C1)C2 | C10H14N2O2S2
reactant | 2-pentyn-1-ol | 107 mg | C(C#CCC)O | C5H8O
reactant | sodium hydride | 60 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 2.5 g | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-(2-norbornyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | C12C(CC(CC1)C2)C2=NC(=NS2)OCC#CC | C13H16N2OS
